Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
Erythromycin Base / Phenothiazines / codeine / Benadryl
 
Attending: ___.
 
Chief Complaint:
"I feel like I want to harm this person... I
feel really stressed out"
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HISTORY OF PRESENT ILLNESS: ___ is a ___ y/o female with a
history of MS, depression, anxiety, restless leg syndrome,  left
sensorineural hearing loss and migraines who self presents to 
the
___ ED with worsening thoughts of wanting to hurt her previous
neurologist. Psychiatry is consulted for evaluation and
assistance with management and disposition.

Ms. ___ is visibly angry on exam, often swearing and raising 
her
voice. She reports that she is very angry at her previous
neurologist for stealing ___ years of her life.  She reports that
she was diagnosed with MS in ___, she started working with this
female doctor, she won't name her, shortly after and worked with
her for ___ years.  She says that she treated her terribly, she
has been insulted, mistreated, abused and they just wanted her
medicare money.  She reports that this doctor pushed her toward 
a
psychiatric diagnosis instead of treating her for her
neurological symptoms.  

Ms. ___ reports says that today she was getting increasingly
angry particularly because her hands are numb and tingling which
is a new symptom for her. She tried to take a cold shower to 
keep
from escalating, but decided she was so angry that she drove
herself to the ED for fear of what she would do.  Pt reports 
that
she would not be able to hold herself back if she saw this
neurologist. She says that her anger is justifable. She has not
made an attempt at contacting or hurting this doctor. 

When asked how she can best be helped, pt began to get tearful
stating "I don't even know....I'm stressed out."  She states 
that
she has been feeling down recently, isolating herself, has not
eaten in a long time, sleeps terribly, has no interest in
activities, and has egosystonic thoughts about killing herself.
She has a close relationship with her son and that he keeps her
committing suicide, however she noted that he is being
brainwashed from her family.  She is isolated from her family,
partly due to her sexual preference.  Pt reports that she
allergic to the smell of testosterone and has a very difficult
time with men. 

Psych ROS:
- Depressive Symptoms: Reports depressed mood, suicidal ideation
with plan/intent, disturbed sleep, anhedonia, decreased 
interest,
hopelessness, decreased energy, poor appetite.
- Psychotic Symptoms: Denies auditory and visual hallucinations,
paranoia, ideas of reference, thought broadcasting, thought
insertion, thought extraction.
- Manic Symptoms: Denies elevated mood, decreased sleep,
decreased need for sleep, increased goal-directed behaviors
(hypersexuality, drug abuse, gambling, spending),
distractibility, increased energy, racing thoughts
- Anxiety: Reports worsening anxiety 
- PTSD: Reports Denies nightmares, flashbacks, avoidance,
hypervigilance.
- Trauma: Reports a history of trauma and sexual harrassment by
males 
 
Past Medical History:
As per previous notes by Dr. ___ Dr. ___, 
reviewed and updated:
"Diagnosis: Depression, Anxiety 
Psychiatrist: none currently
Therapist: ___ at ___, sees her once
every ___ weeks. 
Hospitalizations: Most recently on Deac 4 in ___. Previously
~___, first at age ___ for "nervous breakdown" due to working 100
hours per week and numerous family deaths. Hospitalized in ___
at ___ after miscarriage and divorce. Hospitalized in ___
s/p suicide attempt via overdose when re-traumatized by having 
to
face perpetrator of sexual abuse. Hospitalized in ___ at
___ for depression 
Suicide attempts: 1 by overdose on pills leading to psychiatric
hospitalization
Denies h/o self-injurious behaviors
Medication trials: amitriptyline, Celexa

PAST MEDICAL HISTORY:
PCP: ___  ___, MD per ___
- MS
- HTN
- Migraines
- Restless Leg Syndrome 
- Left sensoneural hearing loss
- GERD"
 
Social History:
Reviewed and updated from initial ED consult note by Dr. 
___:
"SUBSTANCE ABUSE HISTORY:
- EtOH: heavy use in ___, none recently
- Tobacco: a few cigarettes/day 
- Marijuana: Daily, either smokes or puts in tea
- Opiates, including heroin: denies, denies IVDU
- Benzodiazepines: denies
- Cocaine/Crack: denies
- Amphetamines: denies
- LSD/PCP/Ecstasy/Mushrooms: denies

FORENSIC HISTORY:
___
SOCIAL HISTORY:
___
Family History:
FAMILY PSYCHIATRIC HISTORY:
- Completed or attempted suicide: denies
- Substance use or dependence: maternal side
- Mental Illness: depression in maternal side
 
Physical Exam:
As per initial accept physical exam by Dr. ___:
"* General: Thin, NAD. Appears stated age.
* HEENT: Normocephalic. PERRL, EOMI. Oropharynx clear.
* Neck: Supple, trachea midline.
* Back: No significant deformity. No focal tenderness.
* Lungs: Clear to auscultation bilaterally. No crackles or
wheezes.
* CV: Regular rate and rhythm. No murmurs/rubs/gallops. 
* Abdomen: Soft, nontender, nondistended
* Extremities: No clubbing, cyanosis, or edema.
* Skin: Warm and dry. No readily apparent rashes, scars, or
lesions.

Neurological:
  *Cranial Nerves: II-XII intact 
  *Motor- Normal bulk and tone bilaterally. No abnormal
movements, no tremor. Strength full power ___ UE, ___ left leg
compared to ___ right leg. No gross focal motor or sensory
deficits.
  *Coordination: Normal on finger-nose-finger.
  *Sensation: Intact to light touch, position sense intact.
  *Gait: Steady. No truncal ataxia. Normal stance and posture."
 
Pertinent Results:
Chem:
___: Na: 138
___: K: 3.6
___: Cl: 102
___: CO2: 24
___: BUN: 11
___: Creat: 0.6
___: Glucose: 85
___: Ca: 9.7
___: Mg: 2.0
___: PO4: 3.4
TSH:
___: TSH: 1.6
CBC: 
___: WBC: 8.1
___: HGB: 12.9
___: HCT: 40.5
___: MCV: 90
___: Plt Count: 247
___: RDW: 14.2
LFTs:
___: AST: 18
___: ALT: 14
___: Total Bili: 0.5
___: Tot Prot: 6.8
Serum Tox: ASA Ethanol Acetmnp Bnzodzp Barbitr Tricycl 
___:  NEG  NEG1     NEG     NEG2    NEG     NEG3 
Utox:
___: Benzodiazepine: NEG
___: Barbiturate: NEG
___: Opiate: NEG
___: Cocaine: NEG
___: Amphetamine: NEG
___: Methadone: NEG
UA:
___: Urine Glucose (Hem): NEG
___: Urine Protein (Hem): NEG
___: Urine Bilirubin (Hem): NEG
___: Urobilinogen: NEG
___: Urine Ketone (Hem): 10
___: Urine Blood (Hem): NEG
___: Urine Nitrite (Hem): NEG
___: Urine Leuks (Hem): NEG
 
Brief Hospital Course:
SAFETY:  She was unit-restricted.  She was initially on Q15 
minute checks, on ___, patient was triggered by the smell of a 
man's cologne, was screaming extremely loudly, was intrusive in 
people's space, threatening to harm staff, required chemical 
restraint of haldol 5 mg and ativan 2 mg (stated was allergic to 
cogentin, though could not confirm this, did not use for now), 
and was put on seclusion.  Then she was put on security CO, and 
over the weekend was forwarded to Q5 min checks then Q15 minute 
checks.  On ___, required PRN ativan due to getting a new 
roommate.  On ___ she was started on abilify 5 mg PO daily, and 
on ___ she reported feeling less angry, that abilify may have 
been helping. Around the time of discharge, she pt was able to 
maintain safe behaviors on the unit. 

LEGAL: ___
PSYCHIATRIC: Patient came in with angry and violent thoughts of 
hurting her previous neurologist, because her MS symptoms were 
getting worse, with current symptoms of numbness, she blames him 
for not having diagnosed her sooner.  On ___, was triggered by 
smell of a man's cologne, was threatening staff because believed 
cologne smell "raped" her, required security presence and 
chemical restraint of 5 mg haldol IM and 2 mg ativan IM.  Once 
taken off seclusion, patient was still intermittently angry.  
She initially refused any medication changes other than 
citalopram to 20 mg PO qhs, and hydroxyzine 50 mg PO q4hrs PRN 
anxiety/insomnia.  After this restraint event on ___, was 
ordered for haldol 2.5 mg PO QID PRN agitation/anxiety and 
ativan 1 mg PO BID PRN agitation/anxiety. She was started on 
abilify 5 mg on ___ with good effect, and pt reported feeling 
less angry. She was continued on her home citalopram.
-Citalopram 20 mg PO qhs
-Hydroxyzine 50 mg PO q4hrs PRN anxiety/insomnia
-Abilify 2.5 mg PO BID

Medical:
#) Pulse of 58 on ___: On ___, was ___ and before this was 
in the
___.  She is a very athletic person at baseline and is 
clinically
stable.   

#) MS: relapsing-remitting, intermittently feeling hand numbness
bilaterally.
-Patient does not wish to start copaxone until after this
hospitalization. 

#) HTN: Stable.
-Amlodipine 5 mg PO daily

#) GERD: Chronic, stable.
-Omeprazole ___ 20 mg PO BID

#) Restless leg syndrome/leg pain: Chronic, stable.
-Baclofen 10 mg PO Q8hrs PRN back/leg pain

#) Migraines: Chronic, stable.
 - Ibuprofen 800 mg tablet 

PSYCHOSOCIAL: 
#) GROUPS/MILIEU:  The patient was encouraged to participate in 
unit’s groups/milieu/therapy opportunities. Use of coping skills 
and mindfulness/relaxation methods were encouraged. The patient 
was highly animated, euthymic, and participatory in the milieu. 
The patient was very visible on the unit and frequently had 
conversations with her peers. She attended some groups.  Therapy 
addressed family and social issues.  
#) COLLATERAL CONTACTS: We spoke with patient's PCP.  
#) FAMILY INVOLVEMENT: Pt did not wish to have family involved.

#INTERVENTIONS
- Medications: continued celexa, given ativan, started abilify
- Psychotherapeutic interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: Made outpatient appointments 
- Behavioral Interventions (e.g. encouraged ___ skills, ect): 
___ skills were encouraged 
 

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting the above medications, and risks and benefits of 
possible alternatives, including not taking the medications, 
with this patient. We discussed the patient's right to decide 
whether to take these medications as well as the importance of 
the patient's actively participating in the treatment and 
discussing any questions about medications with the treatment 
team, and we answered the patient's questions. The patient 
appeared able to understand and consented to begin the 
medications.

RISK ASSESSMENT
Current risk is low-to-moderate for intentional self-harm given 
that patient denies suicidal ideation, intent and plan, is 
feeling well and is animated, euthymic, and participatory in the 
milieu, is accepting of treatment, is currently sober and is 
future oriented.

Despite history of HI, recent episodes of agitation, current 
risk of harm to others is low/moderate given that she is able to 
talk through her problems and is redirectable, has been working 
on more healthy coping skills, and is willing to follow-up with 
outpatient providers with appropriate medications.  

#) Chronic/Static Risk Factors:
-chronic mental illness, past trauma, chronic medical illness/MS

#) Modifiable Risk Factors:
-HI-individual, group and milieu therapy, medication management, 
coordinated with outpatient providers, ___- individual, group 
and milieu therapy, medication management, discussed ___ skills, 
interpersonal difficulty with family and friends-individual, 
group and milieu therapy

#) Protective Factors:
-good reality testing, has outpatient providers, no history of 
substance/drug abuse, more future oriented.

PROGNOSIS
Fair due to the fact that she responds quite well to 
psychotherapy and abilify, though she has difficulty with anger 
and blaming other people for her current MS.  
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Amlodipine 5 mg PO HS 
2. Citalopram 20 mg PO DAILY 
3. Ibuprofen 800 mg PO Q8H:PRN pain 
4. Omeprazole 20 mg PO BID 
5. Baclofen 10 mg PO Q8H:PRN back/leg  pain 
6. Relpax (eletriptan HBr) 40 mg oral BID:PRN migraine 

 
Discharge Medications:
1. Amlodipine 5 mg PO HS 
2. Baclofen 10 mg PO Q8H:PRN back/leg  pain 
3. Citalopram 20 mg PO DAILY 
RX *citalopram 20 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
4. Ibuprofen 800 mg PO Q8H:PRN pain 
5. Omeprazole 20 mg PO BID 
6. ARIPiprazole 2.5 mg PO BID 
RX *aripiprazole 5 mg 0.5 (One half) tablet(s) by mouth twice a 
day Disp #*30 Tablet Refills:*0
7. Relpax (eletriptan HBr) 40 mg oral BID:PRN migraine 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PTSD

 
Discharge Condition:
Patient is ambulatory, cooperative, not endorsing HI.
*Appearance: Patient found with top of hair gelled, crew cut on
sides, t-shirt and jeans.  Hygeine and grooming is good.  
  Behavior: Patient very calm and cooperative this morning.  
  *Mood and Affect: 'feeling limited'; teary at times
  *Thought process: Linear, logical, goal-oriented.  No LOA.  
  *Thought Content: does not spontaneously endorse SI, HI.  Does
not spontaneously endorse AH/VH or paranoia.
  *Judgment and Insight: Fair/Fair-to-good: She has some insight
into knowing that she needs additional help.  
    Cognition:
    *Attention, *orientation, and executive function: A and Ox3,
attends to interview
    *Memory: Not formally tested, STM and LTM grossly appear
intact.
    *Fund of knowledge: Not formally tested, appears grossly
intact.
    *Speech: Regular rate, rhythm, tone, prosody and volume 
    *Language: Fluent ___

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

*It was a pleasure to have worked with you, and we wish you the 
best of health.*
 
Followup Instructions:
___